US07902194B2
(4-tert-Butyl-2-nitro-phenylethynyl)-trimethyl-silane (3.167 g, 11.51 mmol) and potassium carbonate (3.18 g, 23.0 mmol) were stirred in 75 mL methanol for 20 minutes. The resulting mixture was partitioned between ethylacetate and water. The ethylacetate layer was washed with brine, dried over anhydrous MgSO4, concentrated in vacuo, and purified by flash chromatography with gradient elution with 0 to 5% ethylacetate/hexanes to yield 4-tert-Butyl-1-ethynyl-2-nitro-benzene (1.910 g, 9.398 mmol).

reactant | (4-tert-Butyl-2-nitro-phenylethynyl)-trimethyl-silane | 11.51 mmol, 3.167 g | C(C)(C)(C)C1=CC(=C(C=C1)C#C[Si](C)(C)C)[N+](=O)[O-] | C15H21NO2Si
reactant | potassium carbonate | 23.0 mmol, 3.18 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 75 mL | CO | CH4O
product | 4-tert-Butyl-1-ethynyl-2-nitro-benzene | 9.398 mmol, 1.910 g | C(C)(C)(C)C1=CC(=C(C=C1)C#C)[N+](=O)[O-] | C12H13NO2
